US04585768
A mixture of 985 mg of (-)-cis-2-(4-methoxyphenyl)-3-propionyloxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 1.6 ml of 25% hydrogen bromide-acetic acid and 5 ml of benzene is stirred for 5 hours under ice-cooling. Then, the mixture is evaporated at room temperature to remove benzene. Ether is added to the residue, and the precipitates are collected by filtration and washed with ether. Water is added to said precipitates, and the aqueous mixture is neutralized with potassium carbonate and extracted with ethyl acetate. The extract is washed with water, dried and evaporated under reduced pressure to remove solvent. 660 mg of (-)-cis-2-(4-methoxyphenyl)-3-propionyloxy-5-[2-(N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as caramel.

reactant | (-)-cis-2-(4-methoxyphenyl)-3-propionyloxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 985 mg | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(CC)=O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)Cl | C30H31ClN2O6S
reactant | hydrogen bromide acetic acid | 1.6 ml | Br.C(C)(=O)O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | (-)-cis-2-(4-methoxyphenyl)-3-propionyloxy-5-[2-(N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 660 mg | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(CC)=O)=O)CCNC)C=CC(=C2)Cl | C22H25ClN2O4S
